US06869952B2
N-{3-[4-(4-Fluoro-2-methyl-1H-indol-5-yloxy)-5-methyl-pyrrolo[2,1-f][1,2,4]triazin-6-yloxy]-propyl}-methanesulfonamide
A mixture of N-[3-(4-hydroxy-5-methyl-pyrrolo[2,1-f][1,2,4]triazin-6yloxy)-propyl]-methanesulfonamide (530 mg, 1.77 mmol) and POCl3 was heated at 80° C. for 1.5 h. The volatiles were removed and the residue was diluted with dichloromethane, washed successively with cold NaHCO3 solution and brine, dried, and concentrated in vacuo to afford the crude chloroimidate intermediate (610 mg), which was heated with 4-fluoro-2-methyl-1H-indol-5-ol (495 mg, 3.0 mmol) and K2CO3 (3.0 g, 22 mmol) in DMF (8 mL) at 80-85° C. for 2 h. The mixture was diluted with dichloromethane and the solid was filtered. The filtrate was concentrated and the residue was purified by silica gel flash column chromatography eluting with 30% ethyl acetate/dichloromethane. The desired product was further purified by preparative HPLC to afford the title compound (290 mg, 34% yield) as a tan solid.

reactant | N-[3-(4-hydroxy-5-methyl-pyrrolo[2,1-f][1,2,4]triazin-6yloxy)-propyl]-methanesulfonamide | 1.77 mmol, 530 mg | OC1=NC=NN2C1=C(C(=C2)OCCCNS(=O)(=O)C)C | C11H16N4O4S
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 4-fluoro-2-methyl-1H-indol-5-ol | 3.0 mmol, 495 mg | FC1=C2C=C(NC2=CC=C1O)C | C9H8FNO
reactant | K2CO3 | 22 mmol, 3.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-{3-[4-(4-Fluoro-2-methyl-1H-indol-5-yloxy)-5-methyl-pyrrolo[2,1-f][1,2,4]triazin-6-yloxy]-propyl}-methanesulfonamide | 290 mg, 34% yield | FC1=C2C=C(NC2=CC=C1OC1=NC=NN2C1=C(C(=C2)OCCCNS(=O)(=O)C)C)C | C20H22FN5O4S
